US05112988
A solution of 4,4-diphenyl-2-formylcyclohexanone (44.5 g) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (38 g) in dioxane (650 cc) is stirred for 30 minutes at 25° C. and then cooled to 0° C.; the solid is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.06 mm, diameter 6 cm, height 63 cm), eluting with a mixture of cyclohexane and ethyl acetate (80:20 by volume) and collecting 50-cc fractions. Fractions 7 to 12 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The crystalline residue is stirred vigorously with isopropyl ether (200 cc) and the crystals obtained are drained, washed with isopropyl ether (2×50 cc) and dried. 4,4-Diphenyl-2-formyl-2-cyclohexen-1-one (12 g), m.p. 126° C., is obtained.

reactant | 4,4-diphenyl-2-formylcyclohexanone | 44.5 g | C1(=CC=CC=C1)C1(CC(C(CC1)=O)C=O)C1=CC=CC=C1 | C19H18O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 38 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 650 cc | O1CCOCC1 | C4H8O2
product | 4,4-Diphenyl-2-formyl-2-cyclohexen-1-one | 12 g | C1(=CC=CC=C1)C1(C=C(C(CC1)=O)C=O)C1=CC=CC=C1 | C19H16O2
